Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vicodin / Prochlorperazine / Phenergan / Percocet / Benadryl 
Allergy
 
Attending: ___.
 
Chief Complaint:
Lower Back ___ 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of a T12 
fractures s/p revision surgery in ___, who is presenting with 
back ___, weakness, and numbness.

The patient shares that about 3 weeks ago her back ___ began to 
progressively worsen, and she had new neck and lower back ___. 
Then over the past 3 days, the ___ has been so severe that she 
has been unable to walk. She has had no fevers, chills, 
unintentional weight loss, night sweats, fecal or urinary 
incontinence. She has had a cough over the past 3 days. 

In the ED, initial vitals were: 97.8 50 168/90 22 97 RA. Exam 
was limited by ___, sensation was decreased bilaterally in the 
lower extremities, and rectal tone and sensation were intact. 
Labs were notable for WBC 8.5, Hb 14.3, Platelet 244, Chem-10 
wnl, negative UA. A code cord was initiated. MRI spine showed no 
evidence of cord signal abnormality in C spine, T spine or L 
spine. She has a compression deformity of the T12 vertebral body 
with retropulsion contacting the central cord, but this is 
stable from prior imaging. Of note, she was intubated for the 
MRI due to agitation; she was extubated successfully. CT head 
showed no acute intracranial process and moderate multifocal 
sinus disease. CXR showed low lung volumes without focal 
consolidation. Spine was consulted and recommended mobilization 
with ___ and ___ control. ___ saw the patient and at that time 
she was refusing rehab and not giving them a realistic 
disposition plan. Psychiatry was consulted, who recommended 
optimizing pharmacologic management for delirium and agitation 
prevention and treatment. She did not meet criteria for 
inpatient psychiatry, ___, or constant observation. In 
the ED she was given multiple doses of IV dilaudid, oxycodone, 
ibuprofen, IV morphine and IV Ativan. She was given 
midazolam/propofol/fentanyl while intubated. 

On the floor, the patient endorsed severe lower back ___ and a 
cough. Denied shortness of breath, nausea, vomiting, abdominal 
___, or diarrhea. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: Self-reported PTSD, depression. 
- Hospitalizations: Reports 30 day voluntary hospitalization at
___
- Current treaters and treatment: Dr. ___ in ___
- Medication and ECT trials: Reports previously being on
Celexa. Currently on Valium 
- Suicide attempts: Denies, though reports that others thought
she attempted suicide at one point but refuses to give details
regarding this
- Self-injurious behavior: Denies
- Harm to others: Denies
- Access to weapons: Reports that she owns a gun that is locked
in a safe for protection since her daughter was murdered and her
murderer is at large
 
Social History:
___
Family History:
-Reports sister with bipolar disorder 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
Vital Signs: 97.8, 110/78, 91, 15, 92% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Back: Diffuse tenderness to palpation along C-spine, L-spine, 
T-spine
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, patient unable to lift bilateral lower 
extremities against gravity secondary to ___, decreased 
sensation to light touch in left upper thigh, intact sensation 
to light touch in right lower extremity 

PHYSICAL EXAM ON DISCHARGE:
===========================
Vitals: T: 98.1, BP: 117/78, HR 78, RR 18, SPO2 95% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation anteriorly   
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Back: Severe ttp of lumbar and thoracic spine 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, patient able to lift legs against 
gravity though unable to left against resistance secondary to 
___, decreased sensation to light touch in left upper thigh, 
intact sensation to light touch in right lower extremity 
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 02:17PM BLOOD Glucose-94 UreaN-19 Creat-0.8 Na-141 
K-4.2 Cl-100 HCO3-22 AnGap-23*
___ 02:57PM BLOOD ___ PTT-33.5 ___
___ 02:57PM BLOOD WBC-8.5# RBC-4.63 Hgb-14.3 Hct-42.2 
MCV-91 MCH-30.9 MCHC-33.9 RDW-12.0 RDWSD-39.8 Plt ___

MICROBIOLOGY:
=============
___ 1:04 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 11:38 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:43 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 7:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending)

___ 7:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending)

IMAGING:
========
CXR (___):
FINDINGS:  
  
Lung volumes are relatively low.No focal consolidation is seen.  
There is no pleural effusion or pneumothorax. The cardiac and 
mediastinal silhouettes are unremarkable. 
  
IMPRESSION:  
  
Low lung volumes without focal consolidation. 

MRI C/T/L SPINE (___):
IMPRESSION: 
  
1. There are mild degenerative changes in the spine.  Spinal 
cord is normal. 
2. There is chronic compression fracture of T12 vertebral body, 
and mild 
central canal narrowing at this level, stable. 
3. Suggestion of pneumonia in the left lower lobe with mucous 
plugging, and mild basilar atelectasis bilaterally. 

CT HEAD (___):
FINDINGS:  
 
Exam is mildly motion degraded. There is no evidence of 
infarction, 
hemorrhage, edema, or mass. The ventricles and sulci are normal 
in size and configuration. 
  
The frontal sinuses are clear. There is moderate bilateral 
anterior division ethmoid air cell mucosal thickening, as well 
as mild moderate sphenoid sinus mucosal thickening. There is 
right moderate and left mild maxillary sinus mucosal thickening, 
likely with mucous retention cysts on the right. There is 
partial opacification of the inferior right mastoid air cells. 
The left mastoid air cells are clear. The middle ear cavities 
are clear. The globes bony orbits are intact and unremarkable 
  
IMPRESSION: 
  
1. Exam mildly motion degraded. No visualized acute intracranial 
process.  No hemorrhage. 
2. Moderate multifocal sinus disease, as above. 

CXR (___):
IMPRESSION:  
  
In comparison with the study of ___, the monitoring and 
support devices have been removed. No evidence of acute 
pneumonia, vascular congestion, or pleural effusion. 

CXR (___):
FINDINGS:  
  
There is minimal basilar atelectasis. There are no infiltrates. 
No edema. No pneumothorax. 
  
IMPRESSION:  
  
No infiltrates. 

MRI C/T/L SPINE (___):
IMPRESSION: 
  
1. Study is mildly degraded by motion. 
2. No evidence of spinal cord lesion or epidural abscess. 
3. Grossly stable T12 compression deformity with minimal edema, 
nonspecific enhancement, and bony retropulsion resulting in at 
least mild vertebral canal narrowing and deformation of ventral 
thecal sac without definite associated cord signal abnormality. 
Edema and enhancement are nonspecific, and may be related to 
recent hardware removal. 
4. Probable pneumonia in the left lower lobe, but incompletely 
assessed on 
this non dedicated exam. 
5. New bilateral pleural effusions. 
6. Probable hepatic and renal cysts, as described. 

STUDIES:
========
EMG (___):
 
Clinical Interpretation: Essentially normal study. There is no 
electrophysiologic evidence for an acute neuropathy such as 
acute inflammatory demyelinating polyneuropathy or Guillain 
___ syndrome, or for a generalized myopathy. The reduced 
activation noted in multiple muscles, more prominent in the 
lower extremity, may be volitional, due to ___, or a central 
lesion. 

LABS THREE DAYS PRIOR TO DISCHARGE:
=================================
___ 08:29AM BLOOD Calcium-9.5 Phos-4.1 Mg-2.0
___ 08:29AM BLOOD Glucose-104* UreaN-13 Creat-0.7 Na-142 
K-5.0 Cl-104 HCO3-25 AnGap-18
___ 08:29AM BLOOD WBC-6.3 RBC-3.83* Hgb-11.9 Hct-35.5 
MCV-93 MCH-31.1 MCHC-33.5 RDW-12.4 RDWSD-41.8 Plt ___ yo female with history of a T12 fractures s/p revision 
surgery in ___ who presented with acutely worsening lower back 
___, found to have no new fractures or concern for infection. 
Her hospital course was complicated by an episode of hypotension 
with systolic blood pressures in ___ shortly after 
administration of tizanidine.

#Bilateral hand weakness
#Left-sided burning sensation
#Low Back ___: 
Patient admitted with 5-day history of worsening back ___ that 
primarily started after receiving a steroid injection to her 
lower back approximately one month prior to presentation. 
Patient denied recent trauma or fall. She did share that she was 
previously on a higher dose of fentanyl patch at 200 mcg which 
was recently switched to a lower dose based on the patient's 
preferences around this time as well. MRI Spine obtained in ED 
showed chronic compression fracture of T12 vertebral body and 
normal spinal cord. Neurology was consulted during the patient's 
hospitalization, and recommended a repeat MRI spine to rule out 
an epidural abscess. They also recommended EMG to evaluate for 
nerve damage. Repeat MRI C/T/L spine on ___ showed no 
evidence of epidural abscess and EMG obtained on ___ 
revealed no acute inflammatory demyelinating polyneuropathy or 
Guillain ___ syndrome, or generalized myopathy. Given possible 
medication side effect (see below), the patient's home dose of 
tizanidine was held prior to discharge. She was continued on her 
regularly dosed fentanyl patch. Oxycodone was increased from 10 
mg PO Q6H as needed to 15 mg Q4H as needed. Gabapentin was 
uptitrated from 300 mg TID to ___ mg TID. Her home dose of 
valium was decreased from 10 mg PO Q8H as needed to 5 mg PO Q8H 
as needed. Her other home medications were continued prior to 
discharge. 

#Hypotension: Patient had an episode of hypotension was on 
___ with SBPs in ___. Patient given narcan, 2L IVF. 
Lactate, blood cultures, urine culture were ordered and cultures 
came back negative. Etiology thought to be possibly secondary to 
opioid overdose vs. side effect from tizanidine. SBPs responded 
after administration of 2L IVF increased to 100s-110s. VBG 
notable for normal pH and no base excess. She had no recurrence 
of profound hypotension during hospitalization.

#Urinary burning: patient complained of urinary burning 
overnight on ___. UA revealed >182 WBCs though final urine 
culture from ___ showing mixed bacterial flora, consistent with 
contamination. Patient completed a 3-day course of ceftriaxone 
from ___ with resolution of symptoms. 

#Cough: Patient reported a dry cough for past three days prior 
to admission, which was stable during her hospitalization. There 
was no history of fevers and lungs sound clear anteriorly on 
exam. CXR on ___ negative for acute PNA. She was continued on 
incentive spirometer given low concern for active pulmonary 
infection during her admission. 

TRANSITIONAL ISSUES:
- Please have patient continue to work with Physical Therapy for 
ongoing strength and mobility training to help improve ___ and 
physical functioning 
- Patient's outpatient ___ provider is ___ 
___, ___ 
- Please consider increasing dose of gabapentin as outpatient 
(100 mg every five days as needed to achieve adequate ___ 
control without over-sedation)
- Please adjust ___ control medications (including fentanyl 
patch and oxycodone) as needed to control back ___ without 
causing sedation or hypotension
-Tizanidine discontinued from her regimen as this was thought to 
have contributed to episode of profound hypotension during 
patient's hospitalization. Would strongly encourage refraining 
from using this medication for her in the future. 
# CODE: Full Code (confirmed)
# HCP: ___ (Son, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fentanyl Patch 50 mcg/h TD Q72H 
2. Gabapentin 300 mg PO TID 
3. TRIAzolam 0.5 mg PO QHS 
4. Diazepam 10 mg PO Q8H:PRN anxiety, muscle spasm 
5. Citalopram 20 mg PO DAILY 
6. Tizanidine 8 mg PO TID PRN muscle spasm 
7. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN ___ - 
Moderate 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth TID PRN Disp #*30 
Capsule Refills:*0 
2.  Diazepam 5 mg PO Q8H:PRN anxiety, muscle spasm 
RX *diazepam 5 mg 1 tab by mouth q8h PRN Disp #*21 Tablet 
Refills:*0 
3.  Gabapentin 400 mg PO TID 
RX *gabapentin 400 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN ___ - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
5.  Citalopram 20 mg PO DAILY  
6.  Fentanyl Patch 50 mcg/h TD Q72H  
7.  TRIAzolam 0.5 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Back ___ 
Urinary Tract Infection 
Stable T12 Compression Fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___. 

Why did you come to the hospital?
 - You were admitted to the hospital for worsening back ___. 

What did you receive in the hospital?
 - You underwent an MRI of your spine, which showed no lesions 
or signs of infection of your spinal cord. The MRI did show a 
compression fracture of your thoracic spinal column, which was 
stable in appearance when compared to previous studies. You 
actually had a repeat MRI to look for any spinal infection, and 
this was also negative. 
- During your hospitalization, you had an episode of low blood 
pressure which was thought to be due to medication side effect. 
We decreased your dose of valium, increased your dose of 
oxycodone and gabapentin, and decided to stop your home dose of 
tizanidine out of concern that this may have contributed to the 
episode of low blood pressures. 
- We additionally treated you with a 3-day course of antibiotics 
for a urinary tract infection. 

What should you do once you leave the hospital?
 - Continue to work with Physical Therapy for strength and 
mobility exercises and continue to follow up with your 
outpatient ___ medicine physician for ongoing ___ management 
and care. 
- If you have fevers, chills, confusion, or lightheadedness, 
please seek medical care.
- We want to emphasize that we are very concerned that the 
tizanidine was the cause of your low blood pressures. We 
strongly encourage you to not take this medication again.

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___